US04886814
N-[2-(4-Carboethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine hydrochloride
0.5 g (0.0012 mol) of N-[2-(4-carboxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine is dissolved in 150 ml of chloroform and, while stirring, 2 ml ethanol and 0.25 g of concentrated sulphuric acid are added, and the the mixture is heated to reflux with a water trap for one hour. The mixture is then cooled, ice-water is added, the mixture is made alkaline with ammonia and the phases are separated. The aqueous phase is then extracted again by shaking with chloroform, and the organic phase is dried over sodium sulphate, filtered and evaporated to dryness. The resulting residue is dissolved in ether, ethereal hydrochloric acid is added, the mixture is evaporated to dryness, and the residue is triturated with acetone and filtered off with suction.

reactant | N-[2-(4-carboxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | 0.0012 mol, 0.5 g | C(=O)(O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C19H21F3N2O4S
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sulphuric acid | 0.25 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(4-Carboethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine hydrochloride | Cl.C(=O)(OCC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | InChI=1S/C21H25F3N2O4S.ClH/c1-3-28-19(27)12-30-16-6-4-15(5-7-16)10-14(2)26-8-9-29-18(11-26)17-13-31-20(25-17)21(22,23)24;/h4-7,13-14,18H,3,8-12H2,1-2H3;1H
